US09260414B2
(a) {(S)-2-Methyl-1-[(S)-2-(4-{4′-[(6-piperazin-1-yl-pyridine-3-carbonyl)-amino]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester
Oxalyl chloride (44.0 uL, 0.520 mmol) was added to a solution of 4-(5-carboxy-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (70.3 mg, 0.229 mmol) in dichloromethane (6.67 mL, 104 mmol) and N,N-dimethylformamide (2.01 uL, 0.026 mmol) The reaction mixture was stirred at room temperature for 20 min and then N,N-diisopropylethylamine (0.181 mL, 1.04 mmol) was added followed by ((S)-1-{(S)-2-[4-(4′-amino-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (100.0 mg, 0.217 mmol). The reaction mixture was stirred for 2 h at room temperature, then dried by rotary evaporation. The crude material was dissolved in dichloromethane (1 mL) and then washed with saturated aqueous sodium bicarbonate (1 mL). The organic layer was concentrated, dissolved in 4.0 M hydrogen chloride in 1,4-dioxane (6.7 mL, 27 mmol) and stirred for 1 h at room temperature until completely deprotected. The reaction mixture was concentrated and used directly in the next step.

reactant | Oxalyl chloride | 0.520 mmol, 44.0 uL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(5-carboxy-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.229 mmol, 70.3 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C(=O)O | C15H21N3O4
reactant | dichloromethane | 104 mmol, 6.67 mL | ClCCl | CH2Cl2
reactant | N,N-dimethylformamide | 0.026 mmol, 2.01 uL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 1.04 mmol, 0.181 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ((S)-1-{(S)-2-[4-(4′-amino-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.217 mmol, 100.0 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C26H31N5O3
reactant | 1,4-dioxane | 27 mmol, 6.7 mL | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 4.0 M | Cl | ClH
product | {(S)-2-Methyl-1-[(S)-2-(4-{4′-[(6-piperazin-1-yl-pyridine-3-carbonyl)-amino]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1C=NC(=CC1)N1CCNCC1)=O | C36H42N8O4
